US08865623B2
To a solution of 4-[1-(5-bromo-2-cyclopropylphenyl)methylidene]-2,2,5,5-tetramethyldihydrofuran-3-one (189 g, 541 mmol) in methanol (2650 ml) at 53° C. is added and 2M aqueous lithium hydroxide (27.1 ml, 54.2 mmol) then 50% aqueous hydrogen peroxide (46.1 ml, 812 mmol). After stirring for 30 minutes at this temperature the solution is cooled to 45° C. and quenched with saturated aqueous sodium thiosulfate. Distilled water (1000 ml) is added and the organic solvents are removed in vacuo. The aqueous phase is then extracted into ethyl acetate (×2) and the combined organic extracts are washed with saturated aqueous sodium hydrogen carbonate (×2), brine (500 mL), then dried over anhydrous magnesium sulfate. Volatile solvents are removed under vacuum to afford 2-(5-bromo-2-cyclopropylphenyl)-4,4,6,6-tetramethyl-1,5-dioxaspiro[2.4]heptan-7-one.

reactant | 4-[1-(5-bromo-2-cyclopropylphenyl)methylidene]-2,2,5,5-tetramethyldihydrofuran-3-one | 541 mmol, 189 g | BrC=1C=CC(=C(C1)C=C1C(C(OC1(C)C)(C)C)=O)C1CC1 | C18H21BrO2
reactant | lithium hydroxide | 54.2 mmol, 2M, 27.1 ml | [OH-].[Li+]
reactant | hydrogen peroxide | 812 mmol, 46.1 ml | OO | H2O2
solvent | methanol | 2650 ml | CO | CH4O
product | 2-(5-bromo-2-cyclopropylphenyl)-4,4,6,6-tetramethyl-1,5-dioxaspiro[2.4]heptan-7-one | BrC=1C=CC(=C(C1)C1OC12C(OC(C2=O)(C)C)(C)C)C2CC2 | C18H21BrO3
